US04382939
9-Amino-1,2,3,4-tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one
A solution of 1,2,3,4-tetrahydro-8-methyl-9-nitro-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one (17.2 g, 0.054 moles) in N,N-dimethylformamide (300 ml) is hydrogenated at 50 psi at 24° C. in the presence of Raney Nickel until the required amount of hydrogen has been taken up. The catalyst is filtered off and rinsed with hot N,N-dimethylformamide until free of organic material. The filtrate is slightly concentrated and cooled to give the product (10.9 g), mp 196°-198° C.

reactant | 1,2,3,4-tetrahydro-8-methyl-9-nitro-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.054 moles, 17.2 g | CC1=CC2=C(C=C1[N+](=O)[O-])C1=C(CN(CC1)CC(C)=O)C(O2)=O | C16H16N2O5
reactant | hydrogen | [H][H] | H2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | Raney Nickel | [Ni] | Ni
product | 9-Amino-1,2,3,4-tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 10.9 g | NC=1C(=CC2=C(C1)C1=C(CN(CC1)CC(C)=O)C(O2)=O)C | C16H18N2O3
